US06787653B2
To a solution of 22.6 g (86.6 mmol) of 4-bromo-3,5-dimethoxybenzoic acid (*) in methylene chloride (400 mL) was added 1.5 mL (19.4 mmol) of dimethylformamide. With ice cooling, 13.0 g (102.0 mmol) of oxalyl chloride was added in portions and the mixture was stirred at room temperature for 1.5 hours. The reaction mixture was concentrated under reduced pressure, whereby crude crystals of 4-bromo-3,5-dimethoxybenzoyl chloride were obtained. To an ice-cold solution of 8.40 g (94.2 mmol) of 2-amino-2-methylpropanol in methylene chloride (100 mL), 16.6 mL (95.3 mmol) of N,N-diisopropylethylamine and a solution of crude 4-bromo-3,5-dimethoxybenzoyl in methylene chloride (200 mL) were added. After stirring at room temperature for 10 minutes, the reaction mixture was washed successively with water, 8.0 mol/L hydrochloric acid, a saturated aqueous solution of sodium bicarbonate and saturated saline, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. To the residue was added 47.5 mL (651.0 mmol) of thionyl chloride and the mixture was stirred at room temperature for 10 minutes. Ice water and 600 mL (1500 mmol) of a 2.5 mol/L aqueous sodium hydroxide solution were added and the mixture was extracted with diethyl ether. The organic layer was washed with saturated saline, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was recrystallized from diethyl ether-hexane, whereby 20.9 g of 2-(4-bromo-3,5-dimethoxyphenyl)-4,4-dimethyl-2-oxazoline was obtained as colorless fine needles (mp: 172.5 to 174.5° C., yield: 77%). * Erdtman, H.; Leopold, B. Acta Chem. Scand. 1948, 2, 34-41 (Chem. Abstr. 1949, 43 1037i), incorporated herein by reference.

reactant | 4-bromo-3,5-dimethoxybenzoic acid | 86.6 mmol, 22.6 g | BrC1=C(C=C(C(=O)O)C=C1OC)OC | C9H9BrO4
reactant | dimethylformamide | 19.4 mmol, 1.5 mL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 102.0 mmol, 13.0 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-amino-2-methylpropanol | 94.2 mmol, 8.40 g | NC(CO)(C)C | C4H11NO
reactant | N,N-diisopropylethylamine | 95.3 mmol, 16.6 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | thionyl chloride | 651.0 mmol, 47.5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydroxide | 2.5 mol/L | [OH-].[Na+]
solvent | methylene chloride | 400 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-bromo-3,5-dimethoxyphenyl)-4,4-dimethyl-2-oxazoline | 20.9 g | BrC1=C(C=C(C=C1OC)C=1OCC(N1)(C)C)OC | C13H16BrNO3
